US08487108B2
The (2S)-tert-butyl 1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)pentan-2-ylcarbamate (137 mg, 0.14 mmol) was dissolved in Et2O (5 mL), anhydrous TSA (24 mg, 0.14 mmol) dissolved in EtOH was added. The solvent was removed in vacuo using a hot bath at 60° C. for 30 min to give (S)-2-(trimethylsilyl)ethyl 2-amino-1-cyclohexylpentan-3-yl(methyl)carbamate. MS ESI +ve m/z 343 (M+H).

reactant | (2S)-tert-butyl 1-cyclohexyl-3-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)pentan-2-ylcarbamate | 0.14 mmol, 137 mg | C1(CCCCC1)C[C@@H](C(CC)N(C(=O)OCC[Si](C)(C)C)C)NC(OC(C)(C)C)=O | C23H46N2O4Si
solvent | Et2O | 5 mL | CCOCC | C4H10O
solvent | EtOH | CCO | C2H6O
product | (S)-2-(trimethylsilyl)ethyl 2-amino-1-cyclohexylpentan-3-yl(methyl)carbamate | N[C@@H](CC1CCCCC1)C(CC)N(C(OCC[Si](C)(C)C)=O)C | C18H38N2O2Si
